US06562849B1
t-Butyl N-[2-amino-5-(4-t-butoxycarbonylamino-3,5-dimethylphenoxy)phenyl]-N-methylcarbamate
To a solution of t-butyl N-[5-(4-t-butoxycarbonylamino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate (1.71 g) in methanol (100 ml) was added 10% palladium on carbon (0.2 g). The mixture was vigorously stirred under a hydrogen atmosphere at room temperature for 11 hours. The catalyst was filtered off and the solvent of the filtrate was evaporated to afford the desired compound (1.56 g, Rf=0.14: thin layer chromatography on a silica gel plate using ethyl acetate:n-hexane=1:3 as the eluant).

reactant | t-butyl N-[5-(4-t-butoxycarbonylamino-3,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 1.71 g | C(C)(C)(C)OC(=O)NC1=C(C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C | C25H33N3O7
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | t-Butyl N-[2-amino-5-(4-t-butoxycarbonylamino-3,5-dimethylphenoxy)phenyl]-N-methylcarbamate | NC1=C(C=C(C=C1)OC1=CC(=C(C(=C1)C)NC(=O)OC(C)(C)C)C)N(C(OC(C)(C)C)=O)C | C25H35N3O5
